US05977178
Ethyl 2-(tert-butoxycarbonylamino)acetate (4.17 g, 20.52 mmol) was dissolved in tetrahydrofuran (60 ml). The solution was cooled to -78° C. A 22% solution of methyl magensium chloride in toluene/tetrahydrofuran (purchased from Chemmetallgesellschaft, 27.1 ml, 67.72 mmol) was added dropwise. The reaction mixture was stirred for 1.5 h at -78° C. and then warmed to room temperature. A 10% aqueous solution of ammonium chloride (200 ml) was added dropwise. The phases were separated. The aqueous phase was extracted with ethyl acetate (3×100 ml). The combined organic layers were washed with saturated sodium hydrogen carbonate solution (200 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (110 g), using ethyl acetate/heptane (1:1) as eluent, to give 1.31 g of 2-hydroxy-2-methylpropylcarbamic acid tert-butyl ester.

reactant | Ethyl 2-(tert-butoxycarbonylamino)acetate | 20.52 mmol, 4.17 g | C(C)(C)(C)OC(=O)NCC(=O)OCC | C9H17NO4
reactant | toluene tetrahydrofuran | 67.72 mmol, 27.1 ml | C1(=CC=CC=C1)C.O1CCCC1
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-hydroxy-2-methylpropylcarbamic acid tert-butyl ester | 1.31 g | C(C)(C)(C)OC(NCC(C)(C)O)=O | C9H19NO3
